US08664230B2
To a solution of N-(5-(4-(piperidin-4-yloxy)pyrido[3,2-d]pyrimidin-6-yl)pyridin-3-yl)benzene-sulfonamide (0.082 g, 0.177 mmol) in DCM (0.886 ml) was added TEA (0.062 ml, 0.443 mmol) at room temperature. After stiffing for 2 hours at room temperature, AcCl (0.019 ml, 0.266 mmol) was added to the mixture at 0° C. After stiffing overnight at room temperature, the reaction mixture was diluted with water and extracted with CH2Cl2. The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by prep TLC (DCM:MeOH=20:1) to give N-(5-(4-(1-acetylpiperidin-4-yloxy)-pyrido[3,2-d]pyrimidin-6-yl)pyridin-3-yl)benzenesulfonamide (0.007 g, 7%) as a white solid. 1H-NMR (CDCl3, Varian 400 MHz) δ 2.05-2.18 (2H, m), 2.19 (3H, s), 3.53-3.59 (2H, m), 3.65-3.76 (2H, m), 3.89-3.40 (2H, m), 5.74-8.79 (1H, m), 7.44-7.48 (2H, m), 7.53-7.57 (1H, m), 7.86-7.89 (2H, m), 8.23 (1H, d, J=8.8 Hz), 8.36 (1H, d, J=8.8 Hz), 8.46 (1H, d, J=2.8 Hz), 8.53 (1H, d, J=2.4 Hz), 8.84 (1H, s), 9.12 (1H, d, J=1.6 Hz). m/z=505.1 [M+1]+.

reactant | N-(5-(4-(piperidin-4-yloxy)pyrido[3,2-d]pyrimidin-6-yl)pyridin-3-yl)benzene-sulfonamide | 0.177 mmol, 0.082 g | N1CCC(CC1)OC=1C2=C(N=CN1)C=CC(=N2)C=2C=C(C=NC2)NS(=O)(=O)C2=CC=CC=C2 | C23H22N6O3S
reactant | AcCl | 0.266 mmol, 0.019 ml | C(=O)(C)Cl | C2H3ClO
solvent | DCM | 0.886 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(5-(4-(1-acetylpiperidin-4-yloxy)-pyrido[3,2-d]pyrimidin-6-yl)pyridin-3-yl)benzenesulfonamide | 0.007 g, 7% | C(C)(=O)N1CCC(CC1)OC=1C2=C(N=CN1)C=CC(=N2)C=2C=C(C=NC2)NS(=O)(=O)C2=CC=CC=C2 | C25H24N6O4S
